US04064261
3,5-Dimethyl-s-triazolo(3,4-b)benzothiazole
A solution of 6.1 grams of 2-hydrazino-4-methylbenzothiazole (0.034 mole) and 6.4 grams of triethyl orthoacetate (0.04 mole) in 200 milliliters of xylene was brought to reflux temperature over a period of 5 hours and thereafter refluxed for 96 hours. The reaction mixture was then concentrated to one-fourth of the original volume and allowed to cool to room temperature. The 3,5-dimethyl-s-triazolo(3,4-b)benzothiazole product was separated by filtration, 4 grams, m.p., 196°-8° C.

reactant | 2-hydrazino-4-methylbenzothiazole | 0.034 mole, 6.1 grams | N(N)C=1SC2=C(N1)C(=CC=C2)C | C8H9N3S
reactant | triethyl orthoacetate | 0.04 mole, 6.4 grams | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | xylene | 200 milliliters | C=1(C(=CC=CC1)C)C | C8H10
product | 3,5-Dimethyl-s-triazolo(3,4-b)benzothiazole | CC1=NN=C2SC3=C(N21)C(=CC=C3)C | C10H9N3S
